US05158971
1-Hydroxy-1-[5-(4-chlorophenylthio)thien-2-ylmethyl]urea
To a solution of N-[5-(4-chlorophenylthio)thien-2-ylmethyl]hydroxylamine (6.65 g) in dioxan (100 ml) at room temperature under nitrogen, was added trimethylsilylisocyanate (4.25 g) and the resulting solution stirred for 2 hours, poured onto saturated aqueous ammonium chloride, extracted with ether (2×100 ml), dried over MgSO4 and evaporated under reduced pressure to give a yellow oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using ether to give a white solid. Recrystallised from ether/petroleum ether (40°-60° C.) to give a white crystalline solid m.p. 158°-160° C.

reactant | N-[5-(4-chlorophenylthio)thien-2-ylmethyl]hydroxylamine | 6.65 g | ClC1=CC=C(C=C1)SC1=CC=C(S1)CNO | C11H10ClNOS2
reactant | trimethylsilylisocyanate | 4.25 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Hydroxy-1-[5-(4-chlorophenylthio)thien-2-ylmethyl]urea | ON(C(=O)N)CC=1SC(=CC1)SC1=CC=C(C=C1)Cl | C12H11ClN2O2S2
